US07501406B2
4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide was alkylated using 4-bromomethyl-3-fluoro-benzoic acid methyl ester analogous to Example 1 to afford 4-{[(4-chloro-benzenesulfonyl)-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-amino]-methyl}-3-fluoro-benzoic acid methyl ester: MS: m/e=504.9 (MH+), 522.1(MNH4+).

reactant | 4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1C(NCCC(C1)(F)F)=O | C12H13ClF2N2O3S
reactant | 4-bromomethyl-3-fluoro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CBr)F)=O | C9H8BrFO2
product | 4-{[(4-chloro-benzenesulfonyl)-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-amino]-methyl}-3-fluoro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CN([C@H]1C(NCCC(C1)(F)F)=O)S(=O)(=O)C1=CC=C(C=C1)Cl)F)=O | C21H20ClF3N2O5S
